US09145354B2
Step 2 To a stirred solution of N-[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]formamide (0.128 g, 0.399 mmol) in THF (2 mL) at room temperature was added BH3 in THF (1 M soln, 0.998 mL, 0.998 mmol) dropwise. The mixture was stirred at 50° C. overnight before it was quenched at 0° C. by the addition of excess MeOH followed by piperazine (0.352 g, 4.09 mmol). The mixture was stirred at room temperature for 1 hour before the solvents were removed under vacuum. The residue was taken into EtOAc, washed with water (×2), brine, dried (Na2SO4), filtered and concentrated providing {6-chloro-2-fluoro-3-[(1R)-1-(methylamino)propyl]-phenyl}(pyridin-3-yl)methanol which was used without further purification, 0.123 g, 100%. MS: [M+H]+ 309.

reactant | N-[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]formamide | 0.399 mmol, 0.128 g | ClC1=C(C(=C(C=C1)[C@@H](CC)NC=O)F)C(=O)C=1C=NC=CC1 | C16H14ClFN2O2
reactant | piperazine | 4.09 mmol, 0.352 g | N1CCNCC1 | C4H10N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {6-chloro-2-fluoro-3-[(1R)-1-(methylamino)propyl]-phenyl}(pyridin-3-yl)methanol | ClC1=CC=C(C(=C1C(O)C=1C=NC=CC1)F)[C@@H](CC)NC | C16H18ClFN2O
